### PR TITLE
[Merged by Bors] - feat: define `Filter.absorbing`

### PR DESCRIPTION
**Pull request by urkud**
Also prove that a set is von Neumann bounded
iff `Filter.absorbing 𝕜 S ≤ 𝓝 0`.

These lemmas make it easy to simplify ` IsVonNBounded 𝕜 S`,
provided that we have `𝓝 0 = ⨅ (a1 a2 ... ak), 𝓟 (f a1 a2 ... ak)`,
even if the family of sets in the RHS is not directed,
so `Filter.HasBasis` is false.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 1]
```diff
@@ -133,58 +133,70 @@ protected lemma zero [Zero E] [SMulZeroClass M E] {s : Set E} (hs : 0 ∈ s) : A
...
+lemma absorbs_inter : Absorbs G₀ (s ∩ t) u ↔ Absorbs G₀ s u ∧ Absorbs G₀ t u := by
+  simp only [absorbs_iff_eventually_cobounded_mapsTo, mapsTo_inter, eventually_and]
+
+protected lemma Absorbs.inter (hs : Absorbs G₀ s u) (ht : Absorbs G₀ t u) : Absorbs G₀ (s ∩ t) u :=
+  absorbs_inter.2 ⟨hs, ht⟩
 
-protected alias ⟨_, sInter⟩ := Set.Finite.absorbs_sInter
+variable (G₀ u) in
+/-- The filter of sets `s` that absorb `u`. -/
+protected def Filter.absorbs : Filter α where
```
Comment (eric-wieser) [inline Mathlib/Topology/Bornology/Absorbs.lean:163]: Perhaps `absorbing`?

Comment (urkud) [reply Mathlib/Topology/Bornology/Absorbs.lean]: @eric-wieser Renamed

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 2]
```diff
@@ -133,58 +133,70 @@ protected lemma zero [Zero E] [SMulZeroClass M E] {s : Set E} (hs : 0 ∈ s) : A
...
+@[simp]
+lemma absorbs_inter : Absorbs G₀ (s ∩ t) u ↔ Absorbs G₀ s u ∧ Absorbs G₀ t u := by
+  simp only [absorbs_iff_eventually_cobounded_mapsTo, mapsTo_inter, eventually_and]
+
+protected lemma Absorbs.inter (hs : Absorbs G₀ s u) (ht : Absorbs G₀ t u) : Absorbs G₀ (s ∩ t) u :=
+  absorbs_inter.2 ⟨hs, ht⟩
 
-protected alias ⟨_, sInter⟩ := Set.Finite.absorbs_sInter
+variable (G₀ u) in
+/-- The filter of sets `s` that absorb `u`. -/
```
Comment (eric-wieser) [inline Mathlib/Topology/Bornology/Absorbs.lean:162]:
```suggestion
/-- The filter of sets that absorb `u`. -/
```
since `s` isn't actually one of the arguments.

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 3]
```diff
@@ -133,58 +133,70 @@ protected lemma zero [Zero E] [SMulZeroClass M E] {s : Set E} (hs : 0 ∈ s) : A
...
+lemma absorbs_inter : Absorbs G₀ (s ∩ t) u ↔ Absorbs G₀ s u ∧ Absorbs G₀ t u := by
+  simp only [absorbs_iff_eventually_cobounded_mapsTo, mapsTo_inter, eventually_and]
+
+protected lemma Absorbs.inter (hs : Absorbs G₀ s u) (ht : Absorbs G₀ t u) : Absorbs G₀ (s ∩ t) u :=
+  absorbs_inter.2 ⟨hs, ht⟩
 
-protected alias ⟨_, sInter⟩ := Set.Finite.absorbs_sInter
+variable (G₀ u) in
+/-- The filter of sets that absorb `u`. -/
+def Filter.absorbing : Filter α where
```
Comment (eric-wieser) [inline Mathlib/Topology/Bornology/Absorbs.lean:163]: Is this worth a mention in the module docstring and/or the docstring for `Absorbs`?

**Review by eric-wieser — APPROVED** [review]
bors d+

A line or two in the PR description about the motivation for this would be great

**Comment by urkud** [comment]
bors merge
